US04414347
Preparation of N,N'-diacetyl-sulfamide
12 g of anhydrous acetic acid are dissolved in 150 ml of absolute benzene and 14.8 g of sulfuryl diisocyanate (prepared in accordance with German Pat. No. 940,351) are added dropwise within 20 minutes at ambient temperature, accompanied by stirring. The temperature rises from 21° to 39° C. and CO2 evolution as well as a precipitation of a colorless precipitate occur. The reaction mixture is heated by means of an oil bath to 60° C. accompanied by stirring until the evolution of the gas is at an end, which takes 2 hours. The reaction mixture is cooled, the precipitate removed by suction filtering and dried at 60° C. 17.8 g of colorless crystals are obtained (98.8% of theory), m.p. 167°-169° C. (decomp.) which can be recrystallized from isopropanol and acetic acid.

reactant | acetic acid | 12 g | C(C)(=O)O | C2H4O2
reactant | sulfuryl diisocyanate | 14.8 g | S(=O)(=O)(N=C=O)N=C=O | C2N2O4S
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N,N'-diacetyl-sulfamide | 17.8 g | C(C)(=O)NS(=O)(=O)NC(C)=O | C4H8N2O4S
